US07655666B2
2-Acetylamino-4-formyl-benzoic acid methyl ester
To a suspension of 2-acetylamino-4-hydroxymethyl-benzoic acid methyl ester (1.7 g, 7.62 mmol) in DCM (40 mL) was added MnO2 (1.32 g, 2 equiv) and the resulting mixture was stirred at 50° C. for 18 h. MnO2 (0.66 g, 1 equiv) was added and the mixture was stirred at 50° C. for 2 h. The mixture was cooled down, filtered through a pad of celite and washed with DCM. The solvent was removed in vacuo to afford a crude yellow solid. The residue was purified by flash chromatography (silica gel, EtOAc/hexanes (0:100 to 50:50)) to provide the title compound as a light yellow solid (1.15 g, 68%) (ES-MS: m/z 263.2 [M+CH3CN+H]+, rt 4.29 min).

reactant | 2-acetylamino-4-hydroxymethyl-benzoic acid methyl ester | 7.62 mmol, 1.7 g | COC(C1=C(C=C(C=C1)CO)NC(C)=O)=O | C11H13NO4
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.32 g, 2 equiv | O=[Mn]=O
catalyst | MnO2 | 0.66 g, 1 equiv | O=[Mn]=O
product | 2-Acetylamino-4-formyl-benzoic acid methyl ester | 1.15 g, 68% | COC(C1=C(C=C(C=C1)C=O)NC(C)=O)=O | C11H11NO4
